US09163021B2
N-(5-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-(5-fluoropyridin-2-yl)acetamide
Prepared according to Method Z (Preparation 8) using (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation 28) and (5-fluoropyridin-2-yl)acetic acid (Preparation 82).

reactant | (5-Amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | (5-fluoropyridin-2-yl)acetic acid | FC=1C=CC(=NC1)CC(=O)O | C7H6FNO2
product | N-(5-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)-2-(5-fluoropyridin-2-yl)acetamide | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=C(C=NC2)NC(CC2=NC=C(C=C2)F)=O | C30H36FN5O3Si
